US08242145B2
Step 6: 2-[3-(2-Bromomethyl-4-trifluoromethyl-phenoxy)-phenyl]-propionic acid
To 2-[3-(2-hydroxymethyl-4-trifluoromethyl-phenoxy)-phenyl]-propionic acid (˜0.30 mmol) in DME (5 mL) was added phosphorus tribromide (0.06 mL, 0.60 mmol), and the solution was stirred at room temperature for 3 hours. After cooling to 0° C., the reaction was quenched with saturated aqueous NaHCO3 and extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by silica gel chromatography to give the desired product.

reactant | 2-[3-(2-hydroxymethyl-4-trifluoromethyl-phenoxy)-phenyl]-propionic acid | ˜0.30 mmol | OCC1=C(OC=2C=C(C=CC2)C(C(=O)O)C)C=CC(=C1)C(F)(F)F | C17H15F3O4
reactant | phosphorus tribromide | 0.60 mmol, 0.06 mL | P(Br)(Br)Br | Br3P
solvent | DME | 5 mL | COCCOC | C4H10O2
product | 2-[3-(2-Bromomethyl-4-trifluoromethyl-phenoxy)-phenyl]-propionic acid | BrCC1=C(OC=2C=C(C=CC2)C(C(=O)O)C)C=CC(=C1)C(F)(F)F | C17H14BrF3O3
